US04960766
A mixture of 7β-amino-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate hydrochloride hydroiodide (10 g) in water (70 ml) and acetone (130 ml) was stirred at 0°-5° C. for 1.5 hours. The precipitates crystallized out of the solution were collected by filtration, washed with a mixture of acetone (24 ml) and water (6 ml) and then acetone to give 7β-amino-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate hydrochloride.tetrahydrate (6.6 g).

reactant | 7β-amino-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate hydrochloride hydroiodide | 10 g | I.Cl.N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C=CC2)C)C(=O)[O-])C1=O
solvent | water | 70 ml | O | H2O
solvent | acetone | 130 ml | CC(=O)C | C3H6O
product | 7β-amino-3-(2-methyl-1-pyrazolio)methyl-3-cephem-4-carboxylate hydrochloride | Cl.N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]=2N(C=CC2)C)C(=O)[O-])C1=O | InChI=1S/C12H14N4O3S.ClH/c1-14-3-2-4-15(14)5-7-6-20-11-8(13)10(17)16(11)9(7)12(18)19;/h2-4,8,11H,5-6,13H2,1H3;1H/t8-,11-;/m1./s1
